### PR TITLE
[Merged by Bors] - feat(Algebra/QuadraticDiscriminant): `discrim_eq_zero_iff`

### PR DESCRIPTION
**Pull request by eric-wieser**
Revived from the abandoned #20158

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/QuadraticDiscriminant.lean [hunk 1]
```diff
@@ -98,6 +98,21 @@ theorem quadratic_eq_zero_iff_of_discrim_eq_zero (ha : a ≠ 0) (h : discrim a b
   have : discrim a b c = 0 * 0 := by rw [h, mul_zero]
   rw [quadratic_eq_zero_iff ha this, add_zero, sub_zero, or_self_iff]
 
+theorem discrim_eq_zero_of_existsUnique (ha : a ≠ 0) :
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticDiscriminant.lean:101]: Is there a reason why you have the `→` in the statement? We usually write it as an explicit assumption.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Algebra/QuadraticDiscriminant.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Algebra/QuadraticDiscriminant.lean:101]: Would you prefer I start with `revert` instead?

Comment (riccardobrasca) [reply Mathlib/Algebra/QuadraticDiscriminant.lean]: No preference.
